US06492383B1
[2-(4-Fluoro-phenyl)-thieno[3,2-b]pyridin-7-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from 4-fluorobenzeneboronic acid and (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 17. 1H NMR (400 MHz, DMSO) d 11.4 (s, 1H), 10.7 (s, 1H), 8.28 (d, 1H), 7.50 (m, 9H), 7.05 (d, 1H), 6.49 (s, 1H); LC-MS: 360 (MH+); HPLC RT: 5.40 minutes.

reactant | 4-fluorobenzeneboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=CNC2=CC1 | C15H10BrN3S
product | [2-(4-Fluoro-phenyl)-thieno[3,2-b]pyridin-7-yl]-(1H-indol-5-yl)-amine | FC1=CC=C(C=C1)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=CNC2=CC1 | C21H14FN3S
